US05185339
2-Benzyl-6-cyanopyridine (0.84 g, 0.0043 moles) was added to a solution of sodium methoxide in methanol [prepared by dissolving sodium metal (0.11 g, 0.0047 gram atoms) in methanol (10 ml)] and the mixture stirred at 20° C. for 5 hours. The methanol was evaporated, the residue taken up in chloroform and the precipitate filtered off through a silica bed. Removal of the solvent from the filtrate gave methyl 6-benzyl-2-picoline imidate (0.81 g, 84%) which was used in the next stage without further purification.

reactant | 2-Benzyl-6-cyanopyridine | 0.0043 moles, 0.84 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)C#N | C13H10N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 10 ml, 0.11 g | CO | CH4O
product | methyl 6-benzyl-2-picoline imidate | 0.81 g, 84% | C(C1=CC=CC=C1)C1=CC=CC(=N1)C(OC)=N | C14H14N2O
